US05968875
Sodium hydride (60%, 0.15 g, 3.7 mmol) was added to a solution of 3-fluoro-2-hydroxymethyl-α-methyoxyimino-N-methyl-benzeneacetamide (0.54 g, 2.25 mmol) in dry THF (10 mL) and stirred for 10 minutes at 25° C. under N2 atmosphere. 5,6-Dichloronicotinic acid; t-butyl ester (0.59 g, 2.5 mmol) in 2-3 mL THF was added to this reaction mixture and stirred at 25° C. for about 2 hours. Water (40 mL) was added and the resulting mixture was extracted with ether (2×), dried (anhydrous Na2SO4), filtered and concentrated in vacuo to yield 1.2 g crude oil. Oil was chromatographed with dry pack silica gel (230-400 mesh) with descending solvent gradient from 100% petroleum ether to 80/20 pet ether/ethyl acetate as mobile phase. Elution and concentrated gave α-(methoxyimino)-N-methyl-2-[[[3-chloro-5-(t-butoxycarbonyl)-2-pyridinyl]oxy]methyl]-3-fluoro-benzeneacetamide (520 mg) as an oil. (98% E isomer; 2% Z isomer).

reactant | Sodium hydride | 3.7 mmol, 0.15 g | [H-].[Na+]
reactant | 3-fluoro-2-hydroxymethyl-α-methyoxyimino-N-methyl-benzeneacetamide | 2.25 mmol, 0.54 g | FC=1C(=C(C=CC1)C(C(=O)NC)=NOC)CO | C11H13FN2O3
reactant | 5,6-Dichloronicotinic acid | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | Water | 40 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2-3 mL | C1CCOC1 | C4H8O
product | α-(methoxyimino)-N-methyl-2-[[[3-chloro-5-(t-butoxycarbonyl)-2-pyridinyl]oxy]methyl]-3-fluoro-benzeneacetamide | 520 mg | CON=C(C(=O)NC)C1=C(C(=CC=C1)F)COC1=NC=C(C=C1Cl)C(=O)OC(C)(C)C | C21H23ClFN3O5
